US08222249B2
A mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonic acid salt (0.40 g, 1.1 mmol) and CDI (0.19 g, 1.2 mmol) in DMF (5 mL) was stirred at room temperature for 18 hours. To the mixture was added 4-(1H-imidazol-2-yl)-phenylamine (0.17 g, 1.1 mmol) at room temperature, and the mixture was stirred at 60° C. for 1 d. To the mixture was added water (25 mL) and ethyl acetate (20 mL). The mixture was stirred at room temperature for 2 h. The suspension was filtered and the solid was washed with water (20 mL), ethyl acetate (20 mL) and water (20 mL) to give a solid. The solid was purified with Prep HPLC to give 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-[4-(1H-imidazol-2-yl)-phenyl]-urea as a white solid (150 mg, 30% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 5/95 grad 95/5 in 5 min CH3CN/0.1% H3PO4, 4.41 min (95.9%); mp: 190-192° C.; 1H NMR (DMSO-d6) δ 1.91-2.08 (m, 1H, CHH), 2.27-2.47 (m, 1H, CHH), 2.54-2.66 (m, 1H, CHH), 2.81-3.01 (m, 1H, CHH), 4.31 (d, J=17.4 Hz, 1H, CHH), 4.38-4.52 (m, 3H, CHH, CH2), 5.11 (dd, J=5.0, 13.3 Hz, 1H, NCH), 6.78 (t, J=6.0 Hz, 1H, NH), 7.33-7.76 (m, 9H, Ar), 8.17 (s, 1H, HCOOH), 8.67 (s, 1H, NH), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.41, 31.10, 42.69, 47.02, 51.49, 114.17 (br), 117.80, 121.79, 122.84, 124.55, 126.81, 126.98, 130.19, 135.46, 138.55, 142.31, 144.83, 155.14, 163.19 (HCOOH), 167.88, 170.92, 172.77; LCMS MH=459; Anal. Calcd for C24H22N6O4+2 H2O+0.7 HCOOH+0.3 DMF: C, 56.04; H, 5.42; N, 16.08; Found: C, 55.84; H, 5.34; N, 16.11.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonic acid salt | 1.1 mmol, 0.40 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | CDI | 1.2 mmol, 0.19 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-(1H-imidazol-2-yl)-phenylamine | 1.1 mmol, 0.17 g | N1C(=NC=C1)C1=CC=C(C=C1)N | C9H9N3
reactant | water | 25 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-[4-(1H-imidazol-2-yl)-phenyl]-urea | 150 mg, 30% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC=C(C=C1)C=1NC=CN1)=O)=O | C24H22N6O4
